US06780878B2
C. 4-(4-morpholinyl)benzyl Alcohol
A solution of 4-(4-morpholinyl)benzoic acid (1.00 g, 4.83 mmol) and 4-methylmorpholine (0.53 mL, 4.8 mmol) in tetrahydrofuran (25 mL) at −10° C. was treated with ethyl chloroformate (0.46 mL, 4.8 mmol). After 0.25 h, the mixture was treated with sodium borohydride (550 mg, 14.5 mmol) followed by MeOH (50 mL) slowly. The mixture was then treated with 5% HOAC in water and the mixture was concentrated. The residue was purified by chromatography (SiO2, EtOAc:hexanes) yielding 164 mg (18%) of the title compound.

reactant | 4-(4-morpholinyl)benzoic acid | 4.83 mmol, 1.00 g | N1(CCOCC1)C1=CC=C(C(=O)O)C=C1 | C11H13NO3
reactant | 4-methylmorpholine | 4.8 mmol, 0.53 mL | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 4.8 mmol, 0.46 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 14.5 mmol, 550 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | MeOH | 50 mL | CO | CH4O
product | 4-(4-morpholinyl)benzyl Alcohol | 164 mg, 18% | N1(CCOCC1)C1=CC=C(CO)C=C1 | C11H15NO2
